US07851465B2
(Z)-7-Chloro-5-(4-(4-methoxybenzyloxy)phenyl)-1-methyl-3-(4-(trifluoromethyl)benzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one.
(Z)-7-Chloro-5-(4-(4-methoxybenzyloxy)phenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (75 mg, 0.18 mmol) was dissolved in tetrahydrofuran (4 mL), and the solution was cooled to −78° C. under a nitrogen atmosphere. A 1 M solution of potassium tert-butoxide in tetrahydrofuran (267 μL, 0.267 mmol) was added dropwise, and the solution was stirred for 10 minutes. 4-(trifluoromethyl)benzyl bromide (64 mg, 0.267 mmol, solution in 1 mL tetrahydrofuran) was then added dropwise, and the cooling bath was then removed. The reaction was stirred at room temperature for 2 hours, and it was then quenched with water, and the mixture was portioned between water and ethyl acetate. The aqueous portion was extracted into ethyl acetate again, and the combined organic extracts were dried over sodium sulfate, and then concentrated, and purified by chromatography (gradient; 9:1 hexanes:ethyl acetate to 6:4 hexanes:ethyl acetate, then isocratic) yielding the product as a clear residue (50 mg, 49%).

reactant | (Z)-7-Chloro-5-(4-(4-methoxybenzyloxy)phenyl)-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.18 mmol, 75 mg | ClC1=CC\2=C(N(C(C\N=C2\C2=CC=C(C=C2)OCC2=CC=C(C=C2)OC)=O)C)C=C1 | C24H21ClN2O3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-(trifluoromethyl)benzyl bromide | 0.267 mmol, 1 mL, 64 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.267 mmol, 267 μL | O1CCCC1 | C4H8O
product | (Z)-7-Chloro-5-(4-(4-methoxybenzyloxy)phenyl)-1-methyl-3-(4-(trifluoromethyl)benzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 50 mg, 49% | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC=C(C=C2)OCC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)C(F)(F)F)=O)C)C=C1 | C32H26ClF3N2O3
